US07786067B2
To a flame dried, 500 mL round bottomed flask equipped with an addition funnel charged with epichlorohydrin (15.62 g, 0.17 moles), is added 2-ethylhexanol (16.5 g, 0.127 moles) and stannic chloride (0.20 g, 0.001 moles). The reaction is kept under an argon atmosphere and warmed to 90° C. using an oil bath. Epichlorohydrin is dripped into the stirring solution over 60 minutes followed by stirring at 90° C. for 18 hours. The reaction is fitted with a vacuum distillation head and 1-chloro-3-(2-ethyl-hexyloxy)-propan-2-ol is distilled under 0.2 mm Hg. The 1-chloro-3-(2-ethyl-hexyloxy)-propan-2-ol (4.46 g, 0.020 moles) is dissolved in tetrahydrofuran (50 mL) and stirred at room temperature under an argon atmosphere. To the stirring solution is added potassium tert-butoxide (2.52 g, 0.022 moles) and the suspension is stirred at room temperature for 18 hours. The reaction is then evaporated to dryness, residue dissolved in hexanes and washed with water (100 mL). The hexanes phase is separated, dried with Na2SO4, filtered and evaporated to dryness to yield the crude 2-ethylhexyl glycidyl ether, which can be further purified by vacuum distillation.

reactant | epichlorohydrin | 0.17 moles, 15.62 g | C(Cl)C1CO1 | C3H5ClO
reactant | 2-ethylhexanol | 0.127 moles, 16.5 g | C(C)C(CO)CCCC | C8H18O
reactant | 1-chloro-3-(2-ethyl-hexyloxy)-propan-2-ol | ClCC(COCC(CCCC)CC)O | C11H23ClO2
reactant | 1-chloro-3-(2-ethyl-hexyloxy)-propan-2-ol | 0.020 moles, 4.46 g | ClCC(COCC(CCCC)CC)O | C11H23ClO2
reactant | potassium tert-butoxide | 0.022 moles, 2.52 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-ethylhexyl glycidyl ether | C(C1CO1)OCC(CCCC)CC | C11H22O2
